US05364871
A mixture of 2-(diaminomethyleneamino)-4-[6-[(imino)(methoxy)methyl]pyridin-2-yl]thiazole (0.9 g) in 50% aqueous tetrahydrofuran (60 ml) was adjusted to pH 1.0 with 6N-hydrochloric acid and stirred for 5 minutes at ambient temperature. The mixture was adjusted to pH 9.5 with 20% aqueous potassium carbonate and the mixture was extracted with ethyl acetate. The extract layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from a mixture of methanol, dioxane and diisopropyl ether to give 2-(diaminomethyleneamino)-4-(6-methoxycarbonylpyridin-2-yl)thiazole (0.54 g).

reactant | 2-(diaminomethyleneamino)-4-[6-[(imino)(methoxy)methyl]pyridin-2-yl]thiazole | 0.9 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)C(OC)=N | C11H12N6OS
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-(diaminomethyleneamino)-4-(6-methoxycarbonylpyridin-2-yl)thiazole | 0.54 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)C(=O)OC | C11H11N5O2S
